US04258181
9,10-Anthracenedicarboxaldehyde
A solution of 2.38 g. (0.01 mole) of cis-9,10-dihydro-9,10-ethanoanthracene-11,12-diol [Newman et al., J. Am. Chem. Soc., 77, 3789 (1955)] in 50 ml. of glacial acetic acid was stirred magnetically at 30°-35° C. and treated portionwise with 8.9 g. (0.02 mole) of lead tetra-acetate or until a blue color persisted with starch-iodide test paper. The reaction mixture was stirred for two hours and the so-formed orange crystals were removed by filtration and recrystallized from methylene chloride giving 1.5 g. (65%) of orange needles, m.p. 245°-247° C.

reactant | cis-9,10-dihydro-9,10-ethanoanthracene-11,12-diol | 0.01 mole | C1=CC=CC=2[C@H]3C4=CC=CC=C4[C@@H](C12)C(C3O)O | C16H14O2
reactant | lead tetra-acetate | 0.02 mole | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 9,10-Anthracenedicarboxaldehyde | C1=CC=CC2=C(C3=CC=CC=C3C(=C12)C=O)C=O | C16H10O2
